US09445594B2
Preparation of 1-([1,1′-biphenyl]-2-yl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)urea (F31)
To a three-necked round bottomed flask equipped with condenser and nitrogen inlet was charged with oxalyl chloride (0.378 g, 2.98 mmol). Tetrahydrofuran (25 mL) was added and the reaction was cooled to 0° C. 4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)aniline (0.800 g, 2.50 mmol) and triethylamine (1.74 mL, 12.5 mmol) were added at 0° C. After 30 minutes, [1,1′-biphenyl]-2-amine (0.508 g, 3.00 mmol) dissolved in tetrahydrofuran (25 mL) was added to the reaction mixture. The resulting reaction mixture was slowly warmed to room temperature. Upon completion, the reaction mixture was quenched with water (50 mL) and extracted with ethyl acetate (150 mL×2). The organic phase was washed with brine (50 mL). The combined organic layers were dried over sodium sulfate and were then concentrated under reduced pressure. Purification by flash column chromatography using 0-30% ethyl acetate/hexanes provided the title compound as an off white solid (0.560 g, 87%).

reactant | oxalyl chloride | 2.98 mmol, 0.378 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)aniline | 2.50 mmol, 0.800 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(N)C=C1)(F)F | C15H11F3N4O
reactant | triethylamine | 12.5 mmol, 1.74 mL | C(C)N(CC)CC | C6H15N
reactant | [1,1′-biphenyl]-2-amine | 3.00 mmol, 0.508 g | C=1(C(=CC=CC1)N)C1=CC=CC=C1 | C12H11N
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 1-([1,1′-biphenyl]-2-yl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)urea | C1(=C(C=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=CC=C1 | C28H20F3N5O2
